US04227000
Ethyl 2-formyl-3-(3-methoxyphenyl)propionate (10 g) was added dropwise to a stirred and boiling mixture of sodium methoxide (from 1.15 g sodium) and nitroguanidine (25% wet, 5.5 g) in methanol (250 ml) and the mixture was heated under reflux for 20 hours and evaporated to dryness. The residue was dissolved in water (100 ml), the solution was extracted with ether and the aqueous phase was adjusted to pH 4: the solid which separated was recrystallised from ethanol to give 2-nitroamino-5-(3-methoxybenzyl)-4-pyrimidone (3.41 g, 29%), m.p. 178°-9°.

reactant | Ethyl 2-formyl-3-(3-methoxyphenyl)propionate | 10 g | C(=O)C(C(=O)OCC)CC1=CC(=CC=C1)OC | C13H16O4
reactant | sodium methoxide | 1.15 g | C[O-].[Na+]
reactant | nitroguanidine | 5.5 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
solvent | methanol | 250 ml | CO | CH4O
product | 2-nitroamino-5-(3-methoxybenzyl)-4-pyrimidone | 3.41 g, 29% | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(=CC=C1)OC | C12H12N4O4
